US06288105B1
Preparation of 3-Methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-Methoxy-2-(4-aminophenyl)benzo[b]thiophen-3-yl Ketone
A solution of 200 mg (0.40 mmol) of 3-methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-methoxy-2-(4-acetamidophenyl)benzo[b]thiophen-3-yl ketone (Part H) in 5 mL of MEOH was treated with 5 mL of conc. aq HCl. The reaction was heated to mild reflux for 1 hr and was concentrated in vacuo. The residue was taken up in 25 mL. of H2O, the solution basified to pH 12 with 5 N aq NaOH, and the mixture was extracted with EtOAc (2×25 mL). Trhe comrbined organic extracts were dried (K2CO3), filtered, and concentrated in vacuo to give 175 mg (0.38 mmol; 96%) of the title compound as a foam.

reactant | 3-methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-methoxy-2-(4-acetamidophenyl)benzo[b]thiophen-3-yl ketone | 0.40 mmol, 200 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC(=C(C=C2)CN2CCCC2)C)C2=CC=C(C=C2)NC(C)=O)C1 | C30H30N2O3S
reactant | HCl | 5 mL | Cl | ClH
product | 3-Methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-Methoxy-2-(4-aminophenyl)benzo[b]thiophen-3-yl Ketone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC(=C(C=C2)CN2CCCC2)C)C2=CC=C(C=C2)N)C1 | C28H28N2O2S
